US08871934B2
2-ethyl 4′-methyl 2′-methyl-biphenyl-2,4′-dicarboxylate
Under a nitrogen atmosphere, to a mixture of methyl 4-bromo-3-methylbenzoate (2.291 g), ethyl 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (3.313 g), toluene (20 ml), water (10 ml) and tripotassium phosphate (4.246 g) was added tetrakis(triphenylphosphine)palladium(0) (0.578 g) at room temperature, and the mixture was stirred with heating under reflux overnight. The reaction mixture was cooled to room temperature, and partitioned in a separatory funnel. The organic layer was successively washed with water and saturated brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=95/5) to give the title compound (2.404 g, 81%)

reactant | methyl 4-bromo-3-methylbenzoate | 2.291 g | BrC1=C(C=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | ethyl 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 3.313 g | CC1(OB(OC1(C)C)C1=C(C(=O)OCC)C=CC=C1)C | C15H21BO4
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | tripotassium phosphate | 4.246 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.578 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 10 ml | O | H2O
product | 2-ethyl 4′-methyl 2′-methyl-biphenyl-2,4′-dicarboxylate | 2.404 g, 81% | CC1=C(C=CC(=C1)C(=O)OC)C=1C(=CC=CC1)C(=O)OCC | C18H18O4
